US07687664B2
{4′-Methoxy-3′-[1-(4-trifluoromethylbenzyloxyimino)ethyl]-biphenyl-3-yl}acetic Acid
9 mg of [3′-(1-Hydroxyiminoethyl)-4′-methoxybiphenyl-3-yl]acetic acid was dissolved in 0.2 mg of tetrahydrofuran, then 25 mg of 4-trifluoromethylbenzyl bromide and 10 mg of sodium hydride were added thereto, and the mixture was stirred at room temperature for 3 days. The reaction mixture was neutralized with 1N hydrochloric acid and then extracted with ethyl acetate. The organic layer was concentrated, and the residue was purified by reverse-phase high performance liquid chromatography to give 5.21 mg of the title compound.

reactant | [3′-(1-Hydroxyiminoethyl)-4′-methoxybiphenyl-3-yl]acetic acid | 9 mg | ON=C(C)C=1C=C(C=CC1OC)C1=CC(=CC=C1)CC(=O)O | C17H17NO4
reactant | 4-trifluoromethylbenzyl bromide | 25 mg | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
reactant | sodium hydride | 10 mg | [H-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 0.2 mg | O1CCCC1 | C4H8O
product | {4′-Methoxy-3′-[1-(4-trifluoromethylbenzyloxyimino)ethyl]-biphenyl-3-yl}acetic Acid | 5.21 mg | COC1=C(C=C(C=C1)C1=CC(=CC=C1)CC(=O)O)C(C)=NOCC1=CC=C(C=C1)C(F)(F)F | C25H22F3NO4
